US06399629B1
(A) 1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-cis-4-Hydroxy-L-Proline Methyl Ester
Trifluoroacetic acid (10 mL) was added to a solution of N-tert-butoxycarbonyl-cis-4-hydroxy-L-proline methyl ester (Compound D101 (J), 1.10 g) in dichloromethane (10 mL) at 0° C. After stirring at 0° C. for 10 min and at room temperature for 3 hr, the mixture was evaporated in vacuo to give a crude N-tert-butoxycarbonyl-cis-4-hydroxy-L-proline trifluoroacetate. The crude N-tert-butoxycarbonyl-cis-4-hydroxy-L-proline trifluoroacetate was dissolved in dichloromethane (20 mL), and N-tert-butoxycarbonyl-sarcosine (844 mg), triethylamine (1.25 mL), 1-hydroxybenzotriazole (663 mg), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (856 mg) were added at 0° C. After stirring at 0° C. for 30 min and at room temperature for 17 hr, the solvent was removed in vacuo. The residue was diluted with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium hydrogen carbonate, water, and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue as purified by silica gel column chromatography (chloroform then chloroform-methanol=50:1 to 30:1, v/v) to afford the title compound (452 mg) as a colorless oil. The compound appears as a mixture of rotamers: 1H NMR (400 MHz, CDCl3) δ 1.42 and 1.46 (each s, total 9H), 2.04-2.14 (m, 1H), 2.26-2.39 (m, 1H), 2.94 (s, 3H), 3.52-4.17 (m, 4H), 3.75 and 3.77 (each s, total 3H), 4.17-4.28 (m, 1H), and 4.38-4.62 (m, 2H).

reactant | N-tert-butoxycarbonyl-cis-4-hydroxy-L-proline trifluoroacetate | FC(C(=O)O)(F)F.C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)O
reactant | N-tert-butoxycarbonyl-sarcosine | 844 mg | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
reactant | 1-hydroxybenzotriazole | 663 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 856 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | triethylamine | 1.25 mL | C(C)N(CC)CC | C6H15N
product | 1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-cis-4-Hydroxy-L-Proline Methyl Ester | 452 mg | COC([C@H]1N(C[C@H](C1)O)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C14H24N2O6
